US05840911
b) 5-Thiocarbamoyl-1-tetralone
Analogously to Example 29a), 10.6 g (62 mmol) of 5-cyano-l-tetralone in 200 ml of pyridine and 8.6 ml of triethylamine are treated with hydrogen sulfide and worked up. There is thus obtained the title compound in the form of yellow crystals, m.p. 200°-205°.

reactant | 5-cyano-l-tetralone | 62 mmol, 10.6 g | C(#N)C1=C2CCCC(C2=CC=C1)=O | C11H9NO
reactant | hydrogen sulfide | S | H2S
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 8.6 ml | C(C)N(CC)CC | C6H15N
product | 5-Thiocarbamoyl-1-tetralone | C(N)(=S)C1=C2CCCC(C2=CC=C1)=O | C11H11NOS
